US04000296
A solution of N-benzenesulphonyliminodithiocarbonic acid dimethyl ester (13.0 g.) and 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (8.5 g.) in ethanol (100 ml.) was stirred at room temperature for 4 hours. Excess ethanolic methylamine was added and stirring was continued for 2 hours at room temperature. Following concentration, the residue was dissolved in ethanol-ether (1:1) and chilled affording N-benzenesulphonyl-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)-ethyl]guanidine (15.0 g.), m.p. 156.5 - 157.5 (from water)

reactant | N-benzenesulphonyliminodithiocarbonic acid dimethyl ester | 13.0 g | CS(C(OC)=S)=NS(=O)(=O)C1=CC=CC=C1 | C9H11NO3S3
reactant | 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole | 8.5 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | methylamine | CN | CH5N
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | N-benzenesulphonyl-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)-ethyl]guanidine | 15.0 g | C1(=CC=CC=C1)S(=O)(=O)NC(=NCCSCC1=C(N=CN1)C)NC | C15H21N5O2S2
